US08026366B2
Iodine (12.0 g, 47.4 mmol) was added in one portion to a solution of 2-phenylethanol (5.11 g, 36.5 mmol), triphenylphosphine (11.47 g, 43.8 mmol) and imidazole (3.48 g, 51.04 mmol) in dichloromethane (250 mL) at 0° C. The resulting mixture was allowed to warm slowly to rt and stir overnight, then was transferred to a separatory funnel and washed with water (2×250 mL), saturated aqueous Na2S2O3 (2×100 mL), water (100 mL), and brine (100 mL). The organic phase was dried over MgSO4, filtered and concentrated to a colorless oil that contained a large amount of white solid. The mixture was treated with heptane (2×50 mL) and was filtered. The filtrate was concentrated and the resulting material was again treated with heptane (2×50 mL) and filtered. The filtrate was concentrated to provide 2-phenylethyl iodide as a clear colorless oil (1.74 g, 19%) that contained a trace amount of triphenylphosphine oxide.

reactant | Iodine | 47.4 mmol, 12.0 g | II | I2
reactant | 2-phenylethanol | 36.5 mmol, 5.11 g | C1(=CC=CC=C1)CCO | C8H10O
reactant | triphenylphosphine | 43.8 mmol, 11.47 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 51.04 mmol, 3.48 g | N1C=NC=C1 | C3H4N2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | 2-phenylethyl iodide | 1.74 g, 19% | C1(=CC=CC=C1)CCI | C8H9I
